US07968570B2
A mixture of 2-bromomethyl-benzoic acid methyl ester (0.460 g, 2.0 mmol), 3-(4-trifluoromethoxy-phenyl)-propylamine (0.438 g, 2.0 mmol), and K2CO3 (0.500 g, 3.6 mmol) in toluene (10 mL) was heated with stirring at 100° C. for 2 h. Workup and silica gel column chromatography using 30% ethyl acetate in hexane afforded 2-[3-(4-trifluoromethoxy-phenyl)-propyl]-2,3-dihydro-isoindol-1-one (0.248 g, 37%). 1H NMR (300 MHz, CDCl3): δ (ppm) 1.97 (m, 2H), 2.70 (t, 2H), 3.69 (t, 2H), 4.36 (s, 2H), 7.09 (d, 2H), 7.23 (t, 2H), 7.42-7.56 (m, 3H), 7.86 (d, 1H). GC-MS: m/z 335 (M)+.

reactant | 2-bromomethyl-benzoic acid methyl ester | 2.0 mmol, 0.460 g | COC(C1=C(C=CC=C1)CBr)=O | C9H9BrO2
reactant | 3-(4-trifluoromethoxy-phenyl)-propylamine | 2.0 mmol, 0.438 g | FC(OC1=CC=C(C=C1)CCCN)(F)F | C10H12F3NO
reactant | K2CO3 | 3.6 mmol, 0.500 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 2-[3-(4-trifluoromethoxy-phenyl)-propyl]-2,3-dihydro-isoindol-1-one | 0.248 g, 37% | FC(OC1=CC=C(C=C1)CCCN1C(C2=CC=CC=C2C1)=O)(F)F | C18H16F3NO2
